US07470679B2
3-(Piperidin-4-yl)-3,4-dihydropyrido[2,3-d]pyrimidin-2(1H)-one dihydrochloride
A suspension of tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-d]pyrimidin-3(4H)-yl)piperidine-1-carboxylate (220 mg, 0.66 mmol) in 4N hydrogen chloride in 1,4-dioxane (5.0 mL) was stirred at room temperature for 45 minutes. Mixture was concentrated in vacuo. Crystallization from ethanol and ethyl acetate afforded the title compound as white solid in 62% yield. (M+H)+=233.2.

reactant | tert-butyl 4-(2-oxo-1,2-dihydropyrido[2,3-d]pyrimidin-3(4H)-yl)piperidine-1-carboxylate | 0.66 mmol, 220 mg | O=C1N(CC2=C(N1)N=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 3-(Piperidin-4-yl)-3,4-dihydropyrido[2,3-d]pyrimidin-2(1H)-one dihydrochloride | 62% yield | Cl.Cl.N1CCC(CC1)N1C(NC2=C(C1)C=CC=N2)=O | InChI=1S/C12H16N4O.2ClH/c17-12-15-11-9(2-1-5-14-11)8-16(12)10-3-6-13-7-4-10;;/h1-2,5,10,13H,3-4,6-8H2,(H,14,15,17);2*1H
